US07902399B2
1. Preparation of 11-Bromo-1(tetrahydro-2-pyranyloxy) Undecane.
Pyridine toluene 4-sulphonate (1,0 g, 4,0 mmol) and 11-Bromo-1-undecanol (10,0 g, 400 mmol) were dissolved in dry CH2CH2 (200 ml) at ambient temperature, and 3,4-dihydro-2H-pyrane (5,0 g, 60 mmol) was added. The reaction mixture was stirred overnight. The crude product was purified by flash chromatography on silica gel eluted with CH2Cl2. The yield of 11-Bromo-1(tetrahydro-2-pyranyloxy)undecane was 10,7 g (80%).

reactant | Pyridine toluene 4-sulphonate | 4,0 mmol, 1,0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
reactant | 11-Bromo-1-undecanol | 400 mmol, 10,0 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | 3,4-dihydro-2H-pyrane | 60 mmol, 5,0 g | O1CCCC=C1 | C5H8O
product | 11-Bromo-1(tetrahydro-2-pyranyloxy) Undecane | BrCCCCCCCCCCCOC1OCCCC1 | C16H31BrO2
